US07674809B2
27g) 2-amino-5-nitrobenzylamine hydrochloride
Borane in THF (400 ml, 0.40 mol) is added dropwise to 2-amino-5-nitrobenzonitrile (60 g, 0.35 mol) in THF (600 ml) at 0° C. The mixture is allowed to warm to room temperature and is stirred for 16 hours. The resulting mixture is cooled to 0° C. and 200 ml of absolute ethanol/HCl are added. The THF is removed and the product is filtered off and recrystallized from isopropyl ether. Yield: 68.8 g (96%); Rf (1:1 methanol/chloroform): 0.15; IR (KBr): 3416, 2980, 1669, 1601, 1474, 1285 cm−1.

reactant | Borane | B | BH3
reactant | 2-amino-5-nitrobenzonitrile | 0.35 mol, 60 g | NC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H5N3O2
reactant | ethanol HCl | 200 ml | C(C)O.Cl
solvent | THF | 600 ml | C1CCOC1 | C4H8O
solvent | THF | 0.40 mol, 400 ml | C1CCOC1 | C4H8O
product | 2-amino-5-nitrobenzylamine hydrochloride | Cl.NC1=C(CN)C=C(C=C1)[N+](=O)[O-] | InChI=1S/C7H9N3O2.ClH/c8-4-5-3-6(10(11)12)1-2-7(5)9;/h1-3H,4,8-9H2;1H
